Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
abdominal pain, weakness, n/v

 
Major Surgical or Invasive Procedure:
___ EGD (upper endoscopy)
___ Colonoscopy
___ PRBC transfusion x 1 unit
___ PRBC transfusion x 2 units
EGD ___
COLONOSCOPY ___
 
History of Present Illness:
___ PMH CAD, DM, CKD presenting with 3 days of abdominal pain, 
fatigue. No association with food noted because has had poor 
appetite. Striking her abdomen helps somewhat, has not tried any 
medications including nsaids. Has been holding her home 
anti-hypertensives and aspirin during this time. Remained taking 
her home insulin. Yesterday she tried a ___ herbal 
medication but vomited it up, NBNB. No nausea since. Has been 
moving bowels up to 4 times a day but bm's have been small, 
dark. Feels constipated. No dysuria or blood in urine reported.

In the ED, initial vitals: 97 63 122/32 14 100% RA 

Labs notable for: hgb 4.5, cr 3.3, bun 147, trop t 0.05, heme 
positive black stool.

Imaging: CT abdomen with no signs of bleeding. 

Consults called: GI- found heme positive dark flecks of stool in 
vault. No need for urgent scope. 

Recommendations: CT abdomen performed, PPI bolus and drip 
initiated, transfused 2 units pRBC.

On arrival to the ___,  patient recounts above history with 
daughter translating. She expresses concern about where she will 
be able to urinate while lying in bed. States abdominal pain is 
currently ___.
 
Past Medical History:
PAST MEDICAL HISTORY
Diabetes mellitus type 2.  
Hypertension.  
CKD (recent 2.3-3.5 earlier in year)
hypercholesterolemia  
iron deficiency anemia  
moderate mitral regurgitation  
peripheral neuropathy 
CAD with remote history of MI
Hyperlipidemia

PAST SURGICAL HISTORY
R total hip replacement ___
s/p hysterectomy

 
Social History:
___
Family History:
No kidney disease or heart disease

 
Physical Exam:
Admission Physical Exam:
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, ___ systolic murmur 
best heard over apex
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
GU: positive suprapubic tenderness
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO:  cn ___ intact, moving all extremities

Discharge Physical Exam:

 
Pertinent Results:
Admission Labs:

___ 11:20AM BLOOD WBC-8.6# RBC-1.46*# Hgb-4.5*# Hct-13.6*# 
MCV-93 MCH-30.8 MCHC-33.1 RDW-18.6* Plt ___
___ 11:20AM BLOOD Neuts-78* Bands-0 Lymphs-17* Monos-3 
Eos-2 Baso-0 ___ Myelos-0
___ 11:20AM BLOOD Hypochr-1+ Anisocy-2+ Poiklo-NORMAL 
Macrocy-2+ Microcy-NORMAL Polychr-OCCASIONAL Stipple-OCCASIONAL
___ 11:20AM BLOOD ___ PTT-24.3* ___
___ 06:11PM BLOOD Ret Aut-3.4*
___ 11:20AM BLOOD Glucose-302* UreaN-147* Creat-3.3* Na-138 
K-4.7 Cl-106 HCO3-20* AnGap-17
___ 11:20AM BLOOD ALT-9 AST-18 LD(LDH)-275* AlkPhos-44 
TotBili-0.2 DirBili-0.1 IndBili-0.1
___ 06:11PM BLOOD Calcium-8.1* Phos-3.0 Mg-2.2 Iron-144
___ 11:34AM BLOOD Lactate-1.7

___ 05:03PM URINE Color-Straw Appear-Clear Sp ___
___ 05:03PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-70 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR
___ 05:03PM URINE RBC-<1 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-1

Pertinent Labs:

___ 06:11PM BLOOD TSH-1.4
___ 11:20AM BLOOD Hapto-76
___ 06:11PM BLOOD calTIBC-328 VitB12-500 Ferritn-83 TRF-252
___ 11:20AM BLOOD cTropnT-0.05*
___ 06:11PM BLOOD CK-MB-2 cTropnT-0.04*
___ 05:16AM BLOOD CK-MB-2 cTropnT-0.06*
___ 06:11PM BLOOD CK(CPK)-73
___ 05:16AM BLOOD CK(CPK)-50
___ 06:11PM BLOOD Ret Aut-3.4*

Discharge Labs:

Imaging/Reports:

-CT Abdomen and Pelvis wo/con:

LOWER CHEST: Relative low density of the blood pool, suggests 
anemia.  The 
lung bases are clear.  There is no pleural effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic 
or extrahepatic biliary dilatation.  There is cholelithiasis 
without evidence 
of acute cholecystis. 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation. There is no 
peripancreatic 
stranding. 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
URINARY: The kidneys are mildly atrophic.  Sub cm hypodensity in 
the right and 
left upper poles, are too small to characterize but likely 
represent simple 
cysts.  No concerning renal lesions are seen.  There is no 
hydronephrosis.  
The ureters are normal in caliber along their course the 
bladder. 
GASTROINTESTINAL: Small bowel loops demonstrate normal caliber 
and wall 
thickness throughout. Colon and rectum are within normal limits. 
The appendix 
is not visualized but there are no secondary signs of 
appendicitis within the 
right lower quadrant. There is no evidence of mesenteric 
lymphadenopathy. 
RETROPERITONEUM: There is no evidence of retroperitoneal 
lymphadenopathy. 
VASCULAR: There is no abdominal aortic aneurysm. There is heavy 
calcium burden 
in the abdominal aorta and great abdominal arteries. 
  
PELVIS:  Views of the lower pelvis are limited by the urinary 
bladder is 
distended. There is no evidence of pelvic or inguinal 
lymphadenopathy. There 
is no free fluid in the pelvis. 
  
BONES AND SOFT TISSUES:  The abdominal wall is unremarkable.  A 
partially 
imaged right hip prosthesis is present.  A compression deformity 
of the T12 
vertebral body with seen on lumbar spine MRI from ___.  There 
are no 
concerning lytic or sclerotic bony lesions. 
  
IMPRESSION: 
  
  
1. 
2. Relative low density of the blood pool, consistent with 
anemia. 
3. Distended bladder, correlate with ability to voluntarily 
urinate. 
4. T12 compression deformity not significantly changed from 
___. 
5. Cholelithiasis. 
  

Micro: none

COLONOSCOPY: Impression: Normal mucosa in the colon
Diverticulosis of the right colon
Grade 1 internal hemorrhoids
Otherwise normal colonoscopy to cecum 
Recommendations: No evidence of recent or active bleeding on 
this examination. 
Due to suboptimal bowel preparation, this examination is not 
adequate for screening.
 
Additional notes: The procedure was performed by the fellow and 
the attending. The attending was present for the entire 
procedure and collaborated wtih the fellow on the findings of 
this report. The patient's reconciled home medication list is 
appended to this report. FINAL DIAGNOSES are listed in the 
impression section above. Estimated blood loss = zero. No 
specimens were taken for pathology 

ENDOSCOPY: Impression: Normal mucosa in the esophagus
The mucosa appeared pale and atrophied. In the fundus, the 
mucosa appeared somewhat patchy which could be consistent with 
atrophic gastritis. (biopsy)
Mucosa appeared normal but there were some dark areas of 
pigmentation likely related to iron supplementation. (biopsy)
Otherwise normal EGD to third part of the duodenum 
Recommendations: Follow up biopsy results. 
Proceed with colonoscopy. 
Additional notes: The procedure was performed by the attending 
and the GI fellow. The attending was personally present during 
the entire procedure and collaborated with the Fellow on the 
findings of this report. The patient's home medication list is 
appended to this report. FINAL DIAGNOSES are listed in the 
impression section above. Estimated blood loss = zero. Specimens 
were taken for pathology as listed above. 

 
Brief Hospital Course:
Patient arrived to floor, vital signs stable, s/p 2 units pRBC 
with appropriate crit bump. Etiology of bleed thought to be 
occult bleed via GI tract. Hemolysis labs negative. Iron labs 
grossly normal. Transfused another unit pRBC on the morning of 
___ for slow downtrend. EKG abnormalities improved with 
transfusion and troponin remained flat with no symptoms. 
Abdominal pain resolved with straight cath x 1 for urinary 
retention with normal urination since. Home lasix held for ___ 
which improved somewhat with volume resuscitation but may be at 
new baseline based on recent values.

Called out to floor for further work-up with plan for repeat 
___.

HMED FICU ACCEPT NOTE:
Date and time as above

CC: ___ Pain 
HPI: 
Ms. ___ is an ___ year old with CAD, a remote history of MI, 
DMII, CKD, who presented with three days of nausea abdominal 
pain and fatigue. She has not had any new medications, she has 
not taken nsaids, and was holding her home aspirin and HTN meds 
due to the pain. She took a ___ supplement to see if it 
would help and this caused emesis. During all of this she felt 
constipated and was having about 4 very small BMs per day which 
were dark but solid, no urinary symptoms. She had a Hgb of 4.5 
on admission, and a creatinine of 3.3 (baseline ~2.5), BUN 147. 
Trop was 0.05, with lateral ST depressions on EKG, with flat 
trops, elevated creatinine and improved with transfusion.  CTA/P 
showed no signs of bleeding. GI evaled in the ED, and she had 
flecks of black blood in the vault, no urgent EGD ___ 
needed. She was given 2 units of PRBCs with appropriate bump, 
BID pantoprazole. 

Hemolysis labs were negative. Over her day in the FICU, her HCT 
drifted to 21, and she was give another unit with bump to 25. 
On arrival to the FICU she was noted to have urinary retention 
and  abd pain resolved with one straight cath. She has voided 
normally since. 

EGD ___ planned for ___. On low residue today, clears 
tomorrow, moviprep at 11am, 4pm, NPO tomorrow night.

PAST MEDICAL HISTORY:  
Diabetes mellitus type 2.  
Hypertension.  
CKD (recent 2.3-3.5 earlier in year)  
hypercholesterolemia  
iron deficiency anemia  
moderate mitral regurgitation  
peripheral neuropathy  
CAD with remote history of MI  
Hyperlipidemia  

PAST SURGICAL HISTORY  
R total hip replacement ___  
s/p hysterectomy 

MEDS:
iron 325 daily  
imdur 60 mg daily  
glipizide 5 mg daily  
lantus 10 units daily  
januvia 25 mg daily  
miralax 1 capsule daily  
pravastatin 20 mg daily  
furosemide 40 mg daily  
metop succinate 25 mg daily  
hydral 25 mg TID (last filled ___  

ALLERGIES: sulfa  
 
SOCIAL HISTORY: ___
FAMILY HISTORY:  
No kidney disease or heart disease  

PE: 
VS: BP 116/38, HR 58, RR 14 Sats 98% on RA
Gen: NAD
HEENT: anicteric, MMM
CV: normal rate, regular rhythm, no murmurs
Pulm: CTAB, no wheezes
GI: Soft, NT, ND, NABS
Skin: no rashes
Neuro: facial symmetry, moving all extremities
Labs: See below, reviewed creatinine 2.9, HCT 25

Imaging: 
CT A/P
IMPRESSION: 
1. 
2. Relative low density of the blood pool, consistent with 
anemia. 
3. Distended bladder, correlate with ability to voluntarily 
urinate. 
4. T12 compression deformity not significantly changed from 
___. 
5. Cholelithiasis. 

A/P:
Ms. ___ is an ___ year old with CAD, a remote history of MI, 
DMII, CKD, who presented with three days of nausea abdominal 
pain and fatigue found to have a GI bleed. 

# Acute blood loss anemia, GI bleeding: s/p 3U PRBC transfusion. 
No evidence of further clinical bleeding during hosptialization, 
thus likely slow GI bleed.  Underwent ___ wihtout obvious 
source. Will need capsul study ordered by PCP.  Discussed w/ GI 
restarting baby ASA (CAD) and they are okay with this. Will get 
BI wk CBC with ___ faxed to PCP. I alerted PCP office and 
reviewed with family/patient via interpreter

# CAD / chronic dCHF:
- hold lasix
- continue imdur
- continue metoprolol
- continue ASA

# DMII:
- Insulin SS

# HTN: continue anti-hypertensives

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO DAILY 
2. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
3. GlipiZIDE 5 mg PO DAILY 
4. Glargine 10 Units Bedtime
5. Januvia (sitaGLIPtin) 25 mg oral DAILY 
6. Polyethylene Glycol 17 g PO DAILY 
7. Pravastatin 20 mg PO QPM 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Furosemide 40 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Glargine 10 Units Bedtime
2. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Pravastatin 20 mg PO QPM 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Furosemide 40 mg PO DAILY 
7. GlipiZIDE 5 mg PO DAILY 
8. Januvia (sitaGLIPtin) 25 mg oral DAILY 
9. Polyethylene Glycol 17 g PO DAILY 
10. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Anemia
Acute on Chronic Renal Failure
CAD
HTN
DM2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted with profound anemia, with suspicion it is due 
to a slow GI blood loss.  You were transfused 3U blood and your 
count remained stable. You had an upper endoscopy and 
colonoscopy without identification of source. You will need a 
capsule endoscopy study to be set up by your PCP (I informed 
your PCP ___.  You tolerated food after the scope procedure. 
 You should have twice/week blood test, and I have referred you 
to ___.  Finally, I recommend you discuss with your PCP ___ 
referral to a nephrologist in light of your chronic kidney 
disease

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___